US08729068B2
A mixture of 250 mg of methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 95 mg of bromoethyl acetate, 105 mg of potassium carbonate, and 2.5 mL of DMF was stirred at 80° C. overnight. To the reaction mixture was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 218 mg of methyl 4-{2-[4-({[2-({3-[cyclopropyl(2-ethoxy-2-oxoethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a yellow solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | C1(CC1)NS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C35H35N3O6S2
reactant | bromoethyl acetate | 95 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | methyl 4-{2-[4-({[2-({3-[cyclopropyl(2-ethoxy-2-oxoethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 218 mg | C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CC(=O)OCC | C39H41N3O8S2
